US06683111B2
Ethyl 3-(4-(2-(12H-dibenzo[d,g]-1,3-dioxocine-12-ylidene)ethoxy)phenyl)-2-ethoxypropionate
A mixture of ethyl 3-(4-hydroxyphenyl)-2-ethoxypropionate (0.96 g, 4.0 mmol), 12-(2-bromoethylidene)-12H-dibenzo[d,g]-1,3-dioxocine (1.07 g, 3.3 mmol) and potassium carbonate (0.45 g, 4.5 mmol) in dimethylformamide (15 ml) was heated to 60° C. for 8.5 h. The reaction mixture was diluted with benzene (50 ml), washed with water (2×20 ml), dried (MgSO4) and evaporated. The residue (1.95 g) was purified by column chromatography on silica gel (benzene and benzenelethyl acetate (9:1) eluents). The benzene fractions were discarded, whilst the benzene/ethyl acetate fractions were evaporated to give the title compound as an oil: 0.97 g (62%).

reactant | ethyl 3-(4-hydroxyphenyl)-2-ethoxypropionate | 4.0 mmol, 0.96 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OCC | C13H18O4
reactant | 12-(2-bromoethylidene)-12H-dibenzo[d,g]-1,3-dioxocine | 3.3 mmol, 1.07 g | BrCC=C1C2=C(OCOC3=C1C=CC=C3)C=CC=C2 | C16H13BrO2
reactant | potassium carbonate | 4.5 mmol, 0.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | Ethyl 3-(4-(2-(12H-dibenzo[d,g]-1,3-dioxocine-12-ylidene)ethoxy)phenyl)-2-ethoxypropionate | C1=CC=CC=2OCOC3=C(C(C21)=CCOC2=CC=C(C=C2)CC(C(=O)OCC)OCC)C=CC=C3 | C29H30O6
